US07495004B2
1-[7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]-N-(2-hydroxyethyl)piperidine-3-carboxamide
A solution of 1-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperidine-3-carboxylic acid (30 mg, 0.066 mmol) in 1.0 mL of CH2Cl2 at room temperature was treated with polystyrene-carbodiimide (1.15 mmol/g, 104 mg, 0.12 mmol) and stirred for 30 min. The reaction mixture was treated with 2-aminoethanol (0.004 mL, 0.066 mmol), allowed to rotate overnight, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC chromatography eluting with 5:5:1/hexanes:EtOAc:MeOH to give 11 mg (33% yield) of the title compound: 1H NMR (CDCl3, 400 MHz) δ 7.26-7.14 (m, 2H), 7.00-6.93 (m, 1H), 6.17 (br s), 5.58 (d, 2H, J=1.5), 3.70 (t, 2H, J=5.1), 3.51 (s, 3H), 3.47-3.36 (m, 3H), 3.31 (s, 3H), 3.23 (br d, 1H, J=12.3), 3.12 (dd, 1H, J=12.8, 10.3), 2.97-2.88 (m, 1H), 2.42-2.32 (m, 1H), 1.94-1.86 (m, 1H), 1.82-1.45 (m, 4H); LRMS (ESI) m/z 493 (M+H+); TLC (hexanes:EtOAc:MeOH/5:5:1) Rf=0.12.

reactant | 1-[7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperidine-3-carboxylic acid | 0.066 mmol, 30 mg | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)N2CC(CCC2)C(=O)O)C(=CC=C1)F | C20H21ClFN5O4
reactant | 2-aminoethanol | 0.066 mmol, 0.004 mL | NCCO | C2H7NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[7-(2-Chloro-6-fluorobenzyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]-N-(2-hydroxyethyl)piperidine-3-carboxamide | 11 mg, 33% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)N2CC(CCC2)C(=O)NCCO)C(=CC=C1)F | C22H26ClFN6O4
